US07517994B2
Step I: Preparation of 4-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-N-(2-(vinyloxy)ethoxy)-1,6-dihydropyridazine-3-carboxamide:
To a solution of methyl 4-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylate (25 mg, 0.077 mmol) and O-(2-vinyloxy-ethyl)-hydroxylamine (24 mg, 0.23 mmol) in THF (2 mL) at 0° C. was added LiHMDS (0.54 mL, 0.54 mmol, 1 M in THF). The reaction mixture was warmed to room temperature and stirred for 1 hour. The reaction mixture was quenched with saturated aqueous NaHCO3 and diluted with EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that was purified by silica gel flash column chromatography (100% CH2Cl2 to 1.5% MeOH in CH2Cl2) to afford 30 mg (99%) of the desired product.

reactant | methyl 4-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylate | 0.077 mmol, 25 mg | FC1=C(C=CC(=C1)SC)NC=1C(=NN(C(C1)=O)C)C(=O)OC | C14H14FN3O3S
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.23 mmol, 24 mg | C(=C)OCCON | C4H9NO2
reactant | LiHMDS | 0.54 mmol, 1 M, 0.54 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-N-(2-(vinyloxy)ethoxy)-1,6-dihydropyridazine-3-carboxamide | 30 mg, 99% | FC1=C(C=CC(=C1)SC)NC=1C(=NN(C(C1)=O)C)C(=O)NOCCOC=C | C17H19FN4O4S
